US09120749B2
{6-(3-Chloro-4-hydroxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure D, {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone (30 mg, 0.065 mmol) was reacted with 3-chloro-4-hydroxyphenylboronic acid (26 mg, 0.150 mmol) to afford the desired product (19 mg, 57%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 8.76 (s, 1H), 8.28 (s, 1H), 8.06-7.98 (m, 2H), 7.71 (d, J=2.3 Hz, 1H), 7.54 (dd, J=8.4, 2.3 Hz, 1H), 7.09-7.03 (m, 1H), 3.55 (d, J=12.8 Hz, 2H), 3.34 (s, 3H), 3.23-3.15 (m, 2H), 2.81-2.50 (m, 8H), 2.35 (s, 3H), 2.12 (d, J=10.6 Hz, 2H), 1.92-1.81 (m, 2H), 1.34-1.28 (m, 2H), 1.27-1.20 (m, 2H); ESI MS m/z 505 [C29H33ClN4O4+H]+; HPLC>99% (AUC), tR=10.01 min.

reactant | {6-bromo-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 0.065 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C23H29BrN4O
reactant | 3-chloro-4-hydroxyphenylboronic acid | 0.150 mmol, 26 mg | ClC=1C=C(C=CC1O)B(O)O | C6H6BClO3
product | {6-(3-Chloro-4-hydroxyphenyl)-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 19 mg, 57% | ClC=1C=C(C=CC1O)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)N1CCN(CC1)C | C29H33ClN4O2
